US07094790B2
A solution of 2-(6-bromo-benzothiazol-2-yl)-ethanol (2.23 g, 8.6 mmol) and triethylamine (2.19 g, 21.6 mmol) in THF (45 mL) was cooled to −20° C., and mesyl chloride (1.58 g, 13.8 mmol) was added at −20 to −10° C. The mixture was warmed to room temperature and stirred for 2 hr. Potassium carbonate (1.79 g, 13 mmol), 2-(R)-methylpyrrolidine hydrochloride (2.1 g, 17.2 mmol) and acetonitrile (40 mL) were added to the mixture, and the mixture was stirred at 60° C. for 18 hr. Solvents were removed and the residue was dissolved in 45 mL methylene chloride and washed with 10 mL water. The aqueous layer was re-extracted with 10 mL methylene chloride. The combined methylene chloride was concentrated to oil and purified by column chromatography (silica gel, 10:90 MeOH:CHCl3) to give 6-bromo-2-[2-(2-methyl-pyrrolidin-1-yl)-ethyl]-benzothiazole (2.48 g, 88.3% yield). H NMR (CDCl3, 400 MHz) δ 1.12 (d, 3H, J=7 Hz), 1.41–1.50 (m, 1H), 1.68–1.87 (m, 2H), 1.91–1.99 (m, 1H), 2.24 (q, 1H, J=7 Hz), 2.39–2.48 (m, 1H), 2.56–2.64 (m, 1H), 3.19–3.33 (m, 4H), 7.52 (dd, 1H, J=8, 4 Hz), 7.79 (d, 1H, J=8 Hz), 7.95 (d, 1H, J=4 Hz); 13C NMR(CDCl3, 400 MHz) δ19.3, 22.1, 33.1, 33.9, 52.5, 53.7, 59.9, 117.9, 123.3, 123.7, 128.9, 136.9, 151.3, 170.4; (DCI/NH3) m/z 325, 327 (M+H)+.

reactant | 2-(6-bromo-benzothiazol-2-yl)-ethanol | 8.6 mmol, 2.23 g | BrC1=CC2=C(N=C(S2)CCO)C=C1 | C9H8BrNOS
reactant | triethylamine | 21.6 mmol, 2.19 g | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 13.8 mmol, 1.58 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | Potassium carbonate | 13 mmol, 1.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(R)-methylpyrrolidine hydrochloride | 17.2 mmol, 2.1 g | Cl.C[C@H]1NCCC1
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 6-bromo-2-[2-(2-methyl-pyrrolidin-1-yl)-ethyl]-benzothiazole | 2.48 g, 88.3% yield | BrC1=CC2=C(N=C(S2)CCN2C(CCC2)C)C=C1 | C14H17BrN2S
